US07872036B2
A mixture of 9.4 g of 2-chloro-4-methyl-5-mercaptoaniline, 20 g of 2,2,2-trifluoroethyl iodide, 13 g of potassium carbonate and 200 ml of N,N-dimethylformamide was stirred at room temperature for 16 hours. The reaction mixture was concentrated under reduced pressure, water was added, and the mixture was extracted with toluene. The organic layer was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to obtain 13.5 g of 2-chloro-4-methyl-5-(2,2,2-trifluoroethylthio)aniline.

reactant | 2-chloro-4-methyl-5-mercaptoaniline | 9.4 g | ClC1=C(N)C=C(C(=C1)C)S | C7H8ClNS
reactant | 2,2,2-trifluoroethyl iodide | 20 g | FC(CI)(F)F | C2H2F3I
reactant | potassium carbonate | 13 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 2-chloro-4-methyl-5-(2,2,2-trifluoroethylthio)aniline | 13.5 g | ClC1=C(N)C=C(C(=C1)C)SCC(F)(F)F | C9H9ClF3NS
